US05945438
Synthesis of 3,3-difluoro-2-(2',4'-difluorophenyl)-3-methylsulfinyl-1-(1H-1,2,4-triazol-1-yl)propan-2-ol [Compound (1b-1)]
To a 10 ml solution of 150 mg (0.47 mmol) of 3,3-difluoro-2-(2',4'-difluorophenyl)-3-methylthio-1-(1H-1,2,4-triazol-1-yl)propan-2-ol [Compound (1a-1)] in methylene chloride, 114 mg (0.56 mmol) of m-chloroperbenzoic acid were added at room temperature, followed by stirring for 30 minutes. To the reaction mixture, water was added, followed by extraction with chloroform. The extract was then washed successively with a 10% aqueous solution of sodium thiosulfate and a 10% aqueous solution of sodium carbonate, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The oil so obtained was purified by chromatography on a silica gel column using chloroform:methanol (10:1), whereby 64 mg of the title Compound (1b-1) [diastereomers (1b-1A):(1b-1B)=2.5:1] were obtained in the form of colorless crystals (yield: 40%).

reactant | 3,3-difluoro-2-(2',4'-difluorophenyl)-3-methylthio-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | 0.47 mmol, 150 mg | FC(C(CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)(SC)F | C12H11F4N3OS
reactant | m-chloroperbenzoic acid | 0.56 mmol, 114 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3,3-difluoro-2-(2',4'-difluorophenyl)-3-methylsulfinyl-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | 64 mg | FC(C(CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)(S(=O)C)F | C12H11F4N3O2S
